US05912246
1 6-Chloro-2-[[4-(4-methoxyphenyl)-1-piperazinyl]methyl]-imidazo[1,2-a]pyridine. Refer to Chart D
To 1-[(6-chloroimidazo[1,2-a]pyridin-2-yl)carbonyl]-4-(4-methoxy-phenyl)piperazine (0.182 g) in THF (6 mL) is added borane-methyl sulfide complex (Aldrich; 0.14 mL). Additional THF (4 mL) is added and the mixture is stirred overnight, after which it is quenched with the dropwise addition of methanol. The mixture is concentrated under reduced pressure and then acetone/6N HCl (10/1) is added. The resulting mixture is stirred for 40 min and then concentrated under reduced pressure. The residue is partitioned between dichloromethane and aq. sodium bicarbonate. The organic layers are filtered through sodium sulfate, concentrated, and the residue chromatographed on silica gel using methanol/dichloromethane (2/98 to 4/96) to give 0.027 g of the title compound; mp 111-112° C.; IR (mineral oil) 1512, 1254, 1498, 1035, 830 cm-1. 1H NMR (CDCl3) δ2.74, 3.13, 3.76, 3.77, 6.82, 6.90, 7.12, 7.52, 7.54, 8.13.

reactant | 1-[(6-chloroimidazo[1,2-a]pyridin-2-yl)carbonyl]-4-(4-methoxy-phenyl)piperazine | 0.182 g | ClC=1C=CC=2N(C1)C=C(N2)C(=O)N2CCN(CC2)C2=CC=C(C=C2)OC | C19H19ClN4O2
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | 6-Chloro-2-[[4-(4-methoxyphenyl)-1-piperazinyl]methyl]-imidazo[1,2-a]pyridine | 0.027 g | ClC=1C=CC=2N(C1)C=C(N2)CN2CCN(CC2)C2=CC=C(C=C2)OC | C19H21ClN4O
